* Z:\mnt\design.r\spice\examples\1083-12.asc
V1 IN 0 PWL(0 0 1 15) Rser=0.1
Rload OUT 0 20
C1 OUT 0 10µ
XU1 0 OUT IN LT1083-12
.tran 1
.lib LT1083.lib
.backanno
.end
